US04638005
1-Methyl-3 -(1-sulfonylbutyl)pyrazine (1200)
3.6 g of 2-(1-sulfonylbutyl)pyrazine (1100) was added to a solution of 10 ml methyl iodide/25 ml methanol and the mixture refluxed for 4 days. It was then concentrated and purified by gel permeation chromatography (Biogel P-2/water). Freeze-drying gave 3.2 g of product (1200) which was recrystallized from propanol/water, m.p. 293°-5° (dec). UV H2O max: 206 (3.87), 283 (3.90). 1H NMR: 9.41, D, T (H6); 9.11, S (H2); 8.94, D (H5); 4.63-4.58, M (CHSO3-); 4.52, S (NCH3); 2.31, M (CH2CHSO3-); 1.27, M (CH2CH3); 0.89, T (CH3).

reactant | 2-(1-sulfonylbutyl)pyrazine | 3.6 g | S(=O)(=O)=C(CCC)C1=NC=CN=C1 | C8H10N2O2S
reactant | methyl iodide | 10 ml | CI | CH3I
product | 1-Methyl-3 -(1-sulfonylbutyl)pyrazine | 3.2 g | CN1CC(=NC=C1)C(CCC)=S(=O)=O | C9H14N2O2S
